US04681884
The starting compound is prepared as follows. p-Nitrobenzaldehyde (24.2 g), 4-methyl-pyrimidine (15.5 g) and acetic anhydride (16.7 g) are mixed at room temperature, and the mixture is heated at 120° C. for 5 hours. After cooling, the mixture is poured into water (500 ml), and the aqueous mixture is extracted several times with chloroform. The combined chloroform extracts are dried over magnesium sulfate and concentrated until crystals separated. Addition of ether gives 4-[2-(p-nitrophenyl)ethenyl]pyrimidine (28 g), m.p. 213°-215° C.

reactant | p-Nitrobenzaldehyde | 24.2 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 4-methyl-pyrimidine | 15.5 g | CC1=NC=NC=C1 | C5H6N2
reactant | acetic anhydride | 16.7 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 500 ml | O | H2O
product | 4-[2-(p-nitrophenyl)ethenyl]pyrimidine | 28 g | [N+](=O)([O-])C1=CC=C(C=C1)C=CC1=NC=NC=C1 | C12H9N3O2
